US04532331
A suspension of 1.6 g (0.0044 mole) of 1-(4-methoxybenzyl)-2-phenylaminomethyl imidazole dihydrochloride in 100 ml of CH2Cl2 was converted to its free base by washing with aqueous NaHCO3. The CH2Cl2 was dried (K2CO3), and filtered, and the filtrate was treated with a solution of 3.3 g (0.013 mole) of BBr3 in 9 ml of CH2Cl2. After 3 hr, methanol was cautiously added and all the solvents were evaporated. The residue was recrystallized from methanol and diethyl ether to give 1-(4-hydroxybenzyl)-2-phenylaminomethyl imidazole dihydrobromide, 0.73 gm (39%), mp 198°-200°.

reactant | 1-(4-methoxybenzyl)-2-phenylaminomethyl imidazole dihydrochloride | 0.0044 mole, 1.6 g | Cl.Cl.COC1=CC=C(CN2C(=NC=C2)CNC2=CC=CC=C2)C=C1
reactant | BBr3 | 0.013 mole, 3.3 g | B(Br)(Br)Br | BBr3
reactant | methanol | CO | CH4O
solvent | CH2Cl2 | 100 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 9 ml | C(Cl)Cl | CH2Cl2
product | 1-(4-hydroxybenzyl)-2-phenylaminomethyl imidazole dihydrobromide | Br.Br.OC1=CC=C(CN2C(=NC=C2)CNC2=CC=CC=C2)C=C1 | InChI=1S/C17H17N3O.2BrH/c21-16-8-6-14(7-9-16)13-20-11-10-18-17(20)12-19-15-4-2-1-3-5-15;;/h1-11,19,21H,12-13H2;2*1H
